US05605896
This compound was prepared in 2 steps. The first step was carried out according to the procedure of Intermediate CXXVII starting from ethyl 2-hydroxy-3-propionylbenzoate instead of methyl 2-hydroxy-3-propionylbenzoate and from cyclopropylcarbonyl chloride (prepared as described by G. B. Payne et al., J. Org. Chem. 22, 1680 (1957)) instead of 2-phenylbenzoyl chloride. The reaction was carried for 2 hours at 80° C. After cooling, to room temperature, the mixture was concentrated (in vacuo) to a small volume and added to water. The crude methyl 2-cyclopropylcarbonyloxy-3-propionylbenzoate so obtained was used for the second step without further purification.

reactant | ethyl 2-hydroxy-3-propionylbenzoate | OC1=C(C(=O)OCC)C=CC=C1C(CC)=O | C12H14O4
reactant | cyclopropylcarbonyl chloride | C1(CC1)C(=O)Cl | C4H5ClO
product | methyl 2-cyclopropylcarbonyloxy-3-propionylbenzoate | C1(CC1)C(=O)OC1=C(C(=O)OC)C=CC=C1C(CC)=O | C15H16O5
